US07361763B2
Step 2: Synthesis of 5-Bromo-3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine
Into a 250 mL round bottomed flask were added 5-bromo-3-iodo-1H-pyrrolo[2,3-b]pyridine (8.00 g, 40.6 mmol) and 120 mL dry THF. The solution was cooled in an ice bath at 0° C. and NaH (2.40 g, 60.0 mmol) was added in three portions. After 20 min, p-toluenesulfonyl chloride (8.70 g, 45.63 mmol) was added, and the reaction mixture was allowed to warm to rt over 30 min. The reaction mixture was concentrated and hexanes was added to obtain a precipitate, which was collected and washed with ice cold 2M NaOH. The crude product was recrystallized from EtOAc/hexanes to afford 17.8 g (92%) of the title compound as a light tan powder. 1H-NMR (500 MHz, d6-DMSO) δ8.49 (d, J=2.5 Hz, 1H), 8.21 (s, 1H), 7.99 (d, J=2.0 Hz, 1H), 7.98 (d, J=8.5 Hz, 2H), 7.42 (d, J=8.5Hz, 2 H), 2.32 (s, 3H); MS: m/z 476.8/478.8 [MH+].

reactant | 5-bromo-3-iodo-1H-pyrrolo[2,3-b]pyridine | 40.6 mmol, 8.00 g | BrC=1C=C2C(=NC1)NC=C2I | C7H4BrIN2
reactant | NaH | 60.0 mmol, 2.40 g | [H-].[Na+]
reactant | p-toluenesulfonyl chloride | 45.63 mmol, 8.70 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 5-Bromo-3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 17.8 g, 92% | BrC=1C=C2C(=NC1)N(C=C2I)S(=O)(=O)C2=CC=C(C=C2)C | C14H10BrIN2O2S
